US08664401B2
Step E) 4-methoxy-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole
Potassium acetate (220 mg, 2.24 mmol) was added to 2-(4-bromophenyl)-4-methoxy-2H-1,2,3-triazole (190 mg, 0.748 mmol), bis(pinacolato)diboron (228 mg, 0.898 mmol) and Pd(dppf)Cl2. DCM complex (185 mg, 0.224 mmol) in a 20 ml vial equipped with a septa cap. The vial was evacuated and backfilled with nitrogen 3×. To this was added 1,4-dioxane (8 ml). The reaction mixture was heated at 80° C. for 16 hours. The reaction mixture was filtered through celite (approx 2 inches). The celite was washed with additional ethyl acetate (150 ml). The filtrate was concentrated in vacuo and the crude material was purified by chromatography on silica gel (9:1 heptane:1EtOAc to 2:4 heptane:EtOAc) to furnish a light tan solid (145 mg, 65% TY). MS (LC/MS) m/z 302.3 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.37 (s, 12H) 4.06 (s, 3H) 7.31 (s, 1H) 7.90 (s, 2H) 7.95 (s, 2H).

reactant | Potassium acetate | 2.24 mmol, 220 mg | C(C)(=O)[O-].[K+]
reactant | 2-(4-bromophenyl)-4-methoxy-2H-1,2,3-triazole | 0.748 mmol, 190 mg | BrC1=CC=C(C=C1)N1N=CC(=N1)OC | C9H8BrN3O
reactant | bis(pinacolato)diboron | 0.898 mmol, 228 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-methoxy-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole | COC1=NN(N=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O3
